US06248740B1
Production of sodium 2-[6-[3-[4-(diphenylmethoxy) piperidino]propylamino]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate
To a solution of 2-[6-[3-[4-(diphenylmethoxy) piperidino]propylamino]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionic acid (528 mg) in methanol (2 ml), a 2 N aqueous solution of sodium hydroxide (0.47 ml) was added, followed by stirring at room temperature for 5 minutes. This solution was diluted with 2-propanol and concentrated under reduced pressure; the residue was dissolved in 2-propanol and again concentrated under reduced pressure. To this residue, 2-propanol and ethyl ether were added; the resulting powder was collected by filtration to yield the title compound (474 mg).

reactant | 2-[6-[3-[4-(diphenylmethoxy) piperidino]propylamino]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionic acid | 528 mg | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCNC=1C=CC=2N(N1)C=C(N2)C(C(=O)O)(C)C)C2=CC=CC=C2 | C31H37N5O3
reactant | sodium hydroxide | 0.47 ml | [OH-].[Na+]
solvent | methanol | 2 ml | CO | CH4O
solvent | 2-propanol | CC(C)O | C3H8O
product | sodium 2-[6-[3-[4-(diphenylmethoxy) piperidino]propylamino]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate | 474 mg | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCNC=1C=CC=2N(N1)C=C(N2)C(C(=O)[O-])(C)C)C2=CC=CC=C2.[Na+] | InChI=1S/C31H37N5O3.Na/c1-31(2,30(37)38)26-22-36-28(33-26)15-14-27(34-36)32-18-9-19-35-20-16-25(17-21-35)39-29(23-10-5-3-6-11-23)24-12-7-4-8-13-24;/h3-8,10-15,22,25,29H,9,16-21H2,1-2H3,(H,32,34)(H,37,38);/q;+1/p-1
